US06303790B1
A solution of 0.5 g (2.0 mMol) N-benzyl-6-chloro-nicotinamide in 5.0 ml THF was added over 25 minutes to 10.1 ml (10.1 mMol) of o-tolylmagnesium chloride solution (1M in THF) cooled to 0° C. After 2.5 hours stirring at room temperature, the reaction mixture was cooled again to 0° C. and 4.0 ml acetic acid were added over 15 minutes followed by 1.1 g (4.1 mMol) manganese triacetate dihydrate. After stirring for 1 hour at room temperature, the reaction mixture was filtered and the filtrate was poured onto 20 ml deionized water. Sodium bicarbonate was added portionwise to bring the pH to 7 and the phases were separated. The aqueous layer was extracted with dichloromethane. The combined organic extracts were washed with water, dried (Na2SO4) and evaporated. The residue was purified by flash chromatography (eluent ethyl acetate/n-hexane 2:1) to yield 0.6 g (88%) N-benzyl-6-chloro-4-o-tolyl-nicotinamide as an orange resin.

reactant | N-benzyl-6-chloro-nicotinamide | 2.0 mMol, 0.5 g | C(C1=CC=CC=C1)NC(C1=CN=C(C=C1)Cl)=O | C13H11ClN2O
reactant | o-tolylmagnesium chloride | 10.1 mMol, 1M | C1(=C(C=CC=C1)[Mg]Cl)C
reactant | acetic acid | 4.0 ml | C(C)(=O)O | C2H4O2
solvent | THF | 5.0 ml | C1CCOC1 | C4H8O
catalyst | manganese triacetate dihydrate | 4.1 mMol, 1.1 g | O.O.C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Mn+3]
product | N-benzyl-6-chloro-4-o-tolyl-nicotinamide | 0.6 g, 88% | C(C1=CC=CC=C1)NC(C1=CN=C(C=C1C1=C(C=CC=C1)C)Cl)=O | C20H17ClN2O
